US07053088B2
Benzothiazol-6-yl-[6-(2-naphthyl)-5-(4-trifluoromethylphenyl)pyridazin-3-yl]amine.
(Ph3P)2PdCl2 (0.026 g, 0.038 mmol, Strem) was added to a mixture of benzothiazol-6-yl-[6-chloro-5-(4-trifluoromethylphenyl)pyridazin-3-yl]amine (0.203 g, 0.5 mmol, Example 81(e), 2-naphthaleneboronic acid (0.129 g, 0.75 mmol, Aldrich), Na2CO3 (0.053 g, 0.5 mmol), dimethoxyethane (1.4 mL), EtOH (0.4 mL) and water (0.6 mL). The reaction mixture was heated in a microwave at 120° C. for 15 min with stirring under nitrogen. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (50 mL), washed with 1N NaOH (20 mL) and water (2×20 mL), dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel chromatography with ethyl acetate/hexane (1:1) to give the title compound as an yellow amorphous solid. MS (ESI, pos. ion) m/z: 499 (M+1).

reactant | benzothiazol-6-yl-[6-chloro-5-(4-trifluoromethylphenyl)pyridazin-3-yl]amine | S1C=NC2=C1C=C(C=C2)NC=2N=NC(=C(C2)C2=CC=C(C=C2)C(F)(F)F)Cl | C18H10ClF3N4S
reactant | 2-naphthaleneboronic acid | 0.75 mmol, 0.129 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | Na2CO3 | 0.5 mmol, 0.053 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dimethoxyethane | 1.4 mL | C(OC)COC | C4H10O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | (Ph3P)2PdCl2 | 0.038 mmol, 0.026 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 0.6 mL | O | H2O
solvent | EtOH | 0.4 mL | CCO | C2H6O
product | Benzothiazol-6-yl-[6-(2-naphthyl)-5-(4-trifluoromethylphenyl)pyridazin-3-yl]amine | S1C=NC2=C1C=C(C=C2)NC=2N=NC(=C(C2)C2=CC=C(C=C2)C(F)(F)F)C2=CC1=CC=CC=C1C=C2 | C28H17F3N4S
